US07713993B2
Synthesis of (E)-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]-N-[2-(4-methoxyphenyl)-2-oxoethyl]acrylamide
EDC (223 mg), HOBT (157 mg) and IPEA (0.337 mL) were sequentially added to a solution of (E)-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]acrylic acid (100 mg) and 2-amino-1-(4-methoxyphenyl)ethanone hydrochloride (CAS No. 3883-94-1, 117 mg) in DMF (3 mL), and the reaction solution was stirred at room temperature for three hours. Ethyl acetate and water were added to the reaction solution, and the organic layer was separated. The resulting organic layer was washed with brine and then dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (carrier: Chromatorex NH; elution solvent: ethyl acetate) to obtain 104.7 mg of the title compound. The property values of the compound are as follows.

reactant | HOBT | 157 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | IPEA | 0.337 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | (E)-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]acrylic acid | 100 mg | COC=1C=C(C=CC1N1C=NC(=C1)C)/C=C/C(=O)O | C14H14N2O3
reactant | 2-amino-1-(4-methoxyphenyl)ethanone hydrochloride | Cl.NCC(=O)C1=CC=C(C=C1)OC
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | EDC | 223 mg
product | (E)-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]-N-[2-(4-methoxyphenyl)-2-oxoethyl]acrylamide | 104.7 mg | COC=1C=C(C=CC1N1C=NC(=C1)C)/C=C/C(=O)NCC(=O)C1=CC=C(C=C1)OC | C23H23N3O4
